US08859534B2
N-(Benzo[d][1,3]dioxol-5-ylmethyl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide
The compound was prepared according to the procedure disclosed in Example 1 starting from lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate (80 mg, 0.21 mmol) and benzo[d][1,3]dioxol-5-ylmethaneamine (41 mg, 0.27 mmol). Yield: 78 mg (72%).

reactant | lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate | 0.21 mmol, 80 mg | N1=C(C=CC=C1)CCN1CCN(CC1)C1=CC=CC=2C=C(OC21)C(=O)[O-].[Li+]
reactant | benzo[d][1,3]dioxol-5-ylmethaneamine | 0.27 mmol, 41 mg | O1COC2=C1C=CC(=C2)CN | C8H9NO2
product | N-(Benzo[d][1,3]dioxol-5-ylmethyl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide | O1COC2=C1C=CC(=C2)CNC(=O)C=2OC1=C(C2)C=CC=C1N1CCN(CC1)CCC1=NC=CC=C1 | C28H28N4O4
